US05028610
A mixture of 300 mg of 1-[bis(4-fluorophenyl)methyl]piperazine and 256 mg of N-(3-fluorophenyl) -2-bromopropionamide was dissolved in 20 ml of a 1:1 by volume mixture of tetrahydrofuran and N,N-dimethylformamide, and 100 mg of anhydrous potassium carbonate were added to the resulting solution. The reaction mixture was then stirred at 90° C. for 2 hours. At the end of this time, ethyl acetate was added, and the organic layer was separated. The organic layer was washed three times with water, and then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure, and the residue was subjected to silica gel thin layer chromatography using a 1:1 by volume mixture of cyclohexane and ethyl acetate as the developing solvent, to give 1-[bis(4-fluorophenyl)methyl]-4-[1-(3-fluorophenylcarbamoyl)ethyl]piperazine.

reactant | 1-[bis(4-fluorophenyl)methyl]piperazine | 300 mg | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | N-(3-fluorophenyl) -2-bromopropionamide | 256 mg | FC=1C=C(C=CC1)NC(C(C)Br)=O | C9H9BrFNO
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[bis(4-fluorophenyl)methyl]-4-[1-(3-fluorophenylcarbamoyl)ethyl]piperazine | FC1=CC=C(C=C1)C(N1CCN(CC1)C(C)C(NC1=CC(=CC=C1)F)=O)C1=CC=C(C=C1)F | C26H26F3N3O
